US05001235
3-(Dimethylaminomethylene)-4-oxo-6-methyl-2-pyrone
N,N-dimethylformamide dimethyl acetal (150 ml) is added dropwise to a mixture of 4-hydroxy-6-methyl-2-pyrone (100 g) in dioxane (400 ml) at 0° C. over 20 minutes. The mixture is warmed to room temperature and stirred an additional 4 hours. The precipitated solid is filtered, washed with isopropanol and dried to give 85.0 g of the title compound. The filtrate is concentrated and isopropanol (300 ml) is added to the residue. This mixture is kept at 0° C. overnight to give an additional 18.8 g of the title compound. Physical characteristics are as follows:

reactant | N,N-dimethylformamide dimethyl acetal | 150 ml | COC(N(C)C)OC | C5H13NO2
reactant | 4-hydroxy-6-methyl-2-pyrone | 100 g | OC1=CC(OC(=C1)C)=O | C6H6O3
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 3-(Dimethylaminomethylene)-4-oxo-6-methyl-2-pyrone | 85.0 g | CN(C)C=C1C(OC(=CC1=O)C)=O | C9H11NO3
